US05969182
The reaction of sarcosine with O-methylisourea hydrochloride, described by E. Schutte in Hoppe-Seylers Z. Physiol. Chemie 279 (1943) 52-59, affords creatine in a yield of only 21%.

reactant | sarcosine | N(C)CC(=O)O | C3H7NO2
reactant | O-methylisourea hydrochloride | Cl.COC(N)=N
product | creatine | O=C(O)CN(C)C(N)=N | C4H9N3O2
